US05700822
1. 4-nitrophenyl glyoxal
6.60 (40 mmol) 4-nitroacetophenone was dissolved in 30 ml of diozane and 5 g, (45 mmol) selenium dioxyde was dissolved in 2.2 ml water and mixed. The mixture was refluxed for 16 hours with continuous stirring. The reaction mixture was passed through an alumina column to remove selenium. The solvent was evaporated in vacuum. The crude product was used in the next step without further purification.

reactant | 4-nitroacetophenone | CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H7NO3
reactant | selenium | 45 mmol | [Se] | Se
reactant | water | 2.2 ml | O | H2O
product | 4-nitrophenyl glyoxal | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)C=O | C8H5NO4
